US04742067
1-[[(2-Carboxyethyl)methylamino]carbonyl]-L-proline, phenylmethyl ester (4.8 g., 15 mmole) is taken into 50 ml. of dry tetrahydrofuran with stirring in an ice bath. To this is added dropwise oxalyl chloride (1.58 ml., 18 mmole) followed by 4 drops of dimethylformamide. After 20 minutes the bath is removed and the reaction is run for one hour at room temperature before concentrating to dryness. This material is taken into 30 ml. of tetrahydrofuran, chilled and added dropwise to 2-phenyl-4-butyl-5(4H)-oxazolone (3.42 g., 15.75 mmole) in 24 ml. of tetrahydrofuran while stirring in an ice bath. Triethylamine (2.55 ml.) is added. After 5 minutes the bath is removed and the reaction is run overnight at room temperature. The triethylamine hydrochlorice salt is filtered off, the filtrate is concentrated to dryness, taken into 16 ml. of pyridine, 50 mg. of 4-dimethylamino pyridine is added, and the mixture is stirred for 3 hours. Acetic acid (16 ml.) is added and the mixture is heated at 100° for 45 minutes. The mixture is concentrated to dryness, taken into ethyl acetate and washed neutral with saturated sodium bicarbonate and dilute hydrochloric acid to give 4.7 g. of product. Purification on silica gel in benzene:ethyl acetate (1:2) yields 1.14 g of (±)-1-[[[3-(benzoylamino)-2-oxoheptyl]methylamino]carbonyl]-L-proline, phenylmethyl ester.

reactant | 1-[[(2-Carboxyethyl)methylamino]carbonyl]-L-proline, phenylmethyl ester | 15 mmole, 4.8 g | C(=O)(O)CCN(C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C | C17H22N2O5
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 18 mmole, 1.58 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-phenyl-4-butyl-5(4H)-oxazolone | 15.75 mmole, 3.42 g | C1(=CC=CC=C1)C=1OC(C(N1)CCCC)=O | C13H15NO2
catalyst | dimethylformamide | 4 drops | CN(C=O)C | C3H7NO
solvent | Triethylamine | 2.55 ml | C(C)N(CC)CC | C6H15N
product | (±)-1-[[[3-(benzoylamino)-2-oxoheptyl]methylamino]carbonyl]-L-proline, phenylmethyl ester | 1.14 g | C(C1=CC=CC=C1)(=O)NC(C(CN(C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C)=O)CCCC | C28H35N3O5
